US07465795B2
4-amino-N-cyclopropyl-7-fluoro-8-(2-methoxy-5-methylphenyl)cinnoline-3-carboxamide
Using Method A, 4-amino-7-fluoro-8-iodo-N-cyclopropyl-cinnoline-3-carboxamide (178 mg, 0.48 mmol) and 2-methoxy-5-methylphenylboronic acid (160 mg, 0.96 mmol) were reacted. After purification the title compound (134 mg, 76% yield) was obtained as a white solid. 1H NMR (500 MHz, DMSO-d6) δ 8.98 (d, J=4.8 Hz, 1H), 8.50 (a dd, J=5.5, 9.3 Hz, 1H), 7.71 (t, J=9.1 Hz, 1H), 7.23 (m, 1H), 7.106(s, 1H), 7.02 (d, J=8.4 Hz, 1H), 3.60 (s, 3H), 2.95 (m, 1H), 2.28 (s, 3H), 0.67 (m, 4H). MS APCI, m/z=367.

reactant | 4-amino-7-fluoro-8-iodo-N-cyclopropyl-cinnoline-3-carboxamide | 0.48 mmol, 178 mg | NC1=C(N=NC2=C(C(=CC=C12)F)I)C(=O)NC1CC1 | C12H10FIN4O
reactant | 2-methoxy-5-methylphenylboronic acid | 0.96 mmol, 160 mg | COC1=C(C=C(C=C1)C)B(O)O | C8H11BO3
product | 4-amino-N-cyclopropyl-7-fluoro-8-(2-methoxy-5-methylphenyl)cinnoline-3-carboxamide | 134 mg, 76% yield | NC1=C(N=NC2=C(C(=CC=C12)F)C1=C(C=CC(=C1)C)OC)C(=O)NC1CC1 | C20H19FN4O2
